.lib tt
.include '45nm_LP.pm'
.include '45nm_HP.pm'

.subckt mosn d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b nmos w=w l=l m='mult'
.ends


.subckt mosp d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b pmos w=w l=l  m='mult'
.ends


.subckt mosn_h d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b nmos_h w=w l=l m='mult'
.ends


.subckt mosp_h d g s b mult='1' w='100e-9' l='45e-9'
m1 d g s b pmos_h w=w l=l  m='mult'
.ends
.endl



